US06432993B1
(42-2b) 5-{4-[6-(2,5-Di-t-butyl-4-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
In a similar manner to that described in Example (2-2b), a reaction was carried out using 5-{4-[6-(2,5-di-t-butyl-4-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione (0.73 g) and 4N hydrogen chloride/ethyl acetate (20 ml) and the reaction mixture was purified to give the title compound (0.31 g).

reactant | 5-{4-[6-(2,5-di-t-butyl-4-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 0.73 g | C(C)(C)(C)C1=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C(C(=C1)O)C(C)(C)C | C33H37N3O5S
reactant | hydrogen chloride ethyl acetate | 4N, 20 ml | Cl.C(C)(=O)OCC
product | 5-{4-[6-(2,5-Di-t-butyl-4-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 0.31 g | Cl.C(C)(C)(C)C1=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C(C(=C1)O)C(C)(C)C | InChI=1S/C33H37N3O5S.ClH/c1-32(2,3)22-17-27(23(16-26(22)37)33(4,5)6)41-21-12-13-24-25(15-21)36(7)29(34-24)18-40-20-10-8-19(9-11-20)14-28-30(38)35-31(39)42-28;/h8-13,15-17,28,37H,14,18H2,1-7H3,(H,35,38,39);1H
